2160-08-03 07:30:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - on the wards, noted to have RR in 30s and O2 sats 80% on 4L NC.
   Noted to be wheezy.  IV lasix and NGL paste added to counter possible
   pulm edema and his oxygen was increased.  - intubated, anesthesia noted
   tracheomalacia
   - OG tube was placed to suction and 750cc fecal like material was
   drained.
   - developed pressures in the high 70s, placed on neo and now requiring
   0.5.
   - central line placed
   - A line placed
   - GI consulted: possible fecal ball located in the colon, but no
   ischemia present.  Recommended NG tube, rectal tube, soap [**Last Name (un) 404**] enemas.
   No sigmoidoscopy recommended.  If obstructed, would need surgery.
   - Surgery consulted: Surgery could be necessary (total colectomy).  But
   HCP does not want surgery, therefore recommended continued OG tube and
   rectal tube.
   - spiked 101.6, cultured blood/urine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 02:00 AM
   Metronidazole - [**2160-8-3**] 02:00 AM
   Ciprofloxacin - [**2160-8-3**] 03:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 85 (80 - 96) bpm
   BP: 108/52(68) {103/39(54) - 143/125(126)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     17 mL
                                                                  1,992 mL
   PO:
             TF:
   IVF:
                                                                     17 mL
                                                                  1,992 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    840 mL
   Urine:
                                                                     20 mL
                                                                    180 mL
   NG:
                                                                    750 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                  1,152 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.46/46/64/30/7
   Ve: 9.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Labs / Radiology
   9.9 g/dL
   349 K/uL
   183 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   34 mg/dL
   103 mEq/L
   143 mEq/L
   28.9 %
   25.0 K/uL
        [image002.jpg]
                             [**2160-8-2**]  11:08 PM
                             [**2160-8-3**]  02:45 AM
                             [**2160-8-3**]  03:48 AM
   WBC
   25.0
   Hct
   28.9
   Plt
   349
   Cr
   1.8
   TCO2
   37
   34
   Glucose
   183
   Other labs: PT / PTT / INR:12.4/23.6/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   .
   Micro:
   [**2160-7-26**] Blood culture 4/4 bottles E coli
   [**2160-7-27**] Ucx: yeast and e coli
   [**2160-7-28**] Blood culture no growth
   [**8-3**]: blood culture pending
   [**8-3**]: urine culture pending
   .
   Images:
   [**2160-8-2**] CT abdomen/pelvis (prelim):  New since the prior study on the
   6th, there is marked pericolonic dilatation. The colon, however, is
   thin-walled, with no significant adjacent stranding or inflammation.
   There are some stool balls appreciated in the sigmoid colon, with
   slight transition at this point, but there is no evidence of mechanical
   obstruction. Findings raise concern for possible colonic ischemia, and
   clinical correlation and laboratory correlation is advised. The bladder
   is decompressed by a Foley catheter. There is no free fluid in the
   pelvis or abdomen. Appendix is again prominent, though periappendiceal
   inflammation is absent.
   .
   [**2160-8-2**] CXR:
   The ET tube tip is approximately 6 cm above the carina. The NG tube tip
   is in
   the stomach. Heart size is severely enlarged, unchanged since the prior
   study. Right lung is essentially clear. Within the left lung there is
   questionable left upper lobe opacity seen but given the rotated
   character of
   this study it is difficult to appreciate.
   [**2160-8-3**]: CXR (my read): left sided pleural effusion
   [**2160-8-3**]: AXR:
   Current study is extremely limited most likely due to patient habitus
   and
   demonstrates two AP viewsof the abdomen where the dilatation of the
   colon is
   up to 10 cm. Compared to the recent chest CT it appears to be with no
   appreciable change (series 300B, image 21) on the prior chest CT and
   clinical
   correlation is recommended.
   Assessment and Plan
   Assessment and Plan: Mr. [**Known lastname 2728**] is an 84 year old nursing home resident
   with dementia, mental retardation, DM2, chronic indwelling foley
   initially admitted with urosepsis and possible small extraperitoneal
   bladder perforation on [**7-26**] who subsequently developed hypoxemic
   respiratory failure.
   .
   # Hypoxemic respiratory failure:  Possibly secondary to increased
   abdominal distention, atelectasis due to low lung volumes, and pleural
   effusion/consolidation.  In addition he likely has some aspiration and
   per his floor team thought to have some pulmonary edema.  He rec'd some
   lasix and nebs without much effect and after being hypoxic to 86-90% on
   a non rebreather he began to tire and become more somnolent.  It is
   possible the patient some unwitnessed aspiration prior to intubation,
   versus during intubation as his chest x ray has a possible retrocardiac
   opacity (although not much worse).
   -s/p intubation, will attempt to address primary cause which is likely
   due to colonic distension
   -attempt to wean ventilator settings -> Obtain ABG.  Can drop RR to
   14.  [**Month (only) 8**] consider increasing PEEP pending PaO2.
   -sputum cx given possible retrocardiac opacity
   -current abx are geared towards GI pathogens; monitor for clinical
   worsening
   .
   # Colonic dilation: related to a stool ball in his sigmoid colon, no
   evidence of a mechanical obstruction per radiology.  Per surgery any
   surgical intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -fleets enemas x 2 per [**Doctor First Name 91**] and GI
   -NGT and rectal tube in 30 cm for decompression
   -electrolyte repletion
   -follow lactate
   -continue flagyl, cipro, fluconazole, bactrim as per gen [**Doctor First Name 91**]; consider
   narrowing spectrum
   -f/u GI and gen [**Doctor First Name 91**] recs
   .
   # Hypotension: multifactorial, may be due to abdominal process in
   combination with higher PEEP and sedating medications.  Prior to
   intubation was normotensive and also on all of his home
   antihypertensives including HCTZ, metoprolol, isordil and norvasc.
   Hold antihypertensives and use pressors as necessary, goal MAP > 65.
   Currently requiring neo 0.5.
   - fluid boluses as necessary to keep MAP > 65
   - A line placed
   - obtain CVP
   - change neo to levophed; try to wean as tolerated
   - culture if spikes and will broaden coverage.
   .
   # Urosepsis: ID has been consulted.
   -f/u ID recs
   -continue bactrim for ecoli bacteremia and continue IV fluc for yeast
   in urine per ID
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #DM: continue glargine and sliding scale insulin.
   .
   #Hypernatremia: stable.
   -in a.m. will calculate new free water deficit given fluid shifts and
   change in clinical status today
   .
   #Acute renal failure - currently 1.8 and has leveled off.  follow uop
   and bolus prn to maintain UOP > 30cc.
   -send urine lytes and urinalysis if creatinine worsens
   -trend
   -renally dose meds
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV)
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #FEN: IVF boluses, replete electrolytes prn, NPO
   .
   #Prophylaxis: sc heparin, PPI
   .
   Access: LIJ
   .
   Code:  Full Code
   Contact person: [**First Name5 (NamePattern1) 792**] [**Last Name (NamePattern1) 8717**] [**0-0-**]
   Sister [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2160-08-03 09:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with progressive hypoxemia in the setting of tachypnea and with
   worsening mental status patient to mechanical ventilation with
   intubation performed with bronchoscope.  Peri-intubation patient with
   transient hypotension following sedating medications required for
   procedure.
   Overnight-->
   Patient started and maintained in Neo
   GI Consulted and no plans for endoscopy in the setting of a fecal ball
   in sigmoid and decompression pursued with NGT.  Surgery sees patient in
   follow up and discussions held in regards to surgical intervention
   possible colon resection and ileostomy was deferred by the family at
   this time.
   With NGT placed 500cc fluid removed
   24 Hour Events:
 INVASIVE VENTILATION - START [**2160-8-3**] 12:00 AM
 MULTI LUMEN - START [**2160-8-3**] 12:59 AM
 BLOOD CULTURED - At [**2160-8-3**] 04:20 AM
 BLOOD CULTURED - At [**2160-8-3**] 04:32 AM
 SPUTUM CULTURE - At [**2160-8-3**] 04:33 AM
 URINE CULTURE - At [**2160-8-3**] 04:33 AM
 STOOL CULTURE - At [**2160-8-3**] 04:33 AM
 NASAL SWAB - At [**2160-8-3**] 04:33 AM
 ARTERIAL LINE - START [**2160-8-3**] 04:39 AM
 FEVER - 101.6
F - [**2160-8-3**] 04:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2160-8-3**] 02:00 AM
   Bactrim (SMX/TMP) - [**2160-8-3**] 02:00 AM
   Ciprofloxacin - [**2160-8-3**] 03:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2160-8-3**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 85 (80 - 96) bpm
   BP: 108/52(68) {103/39(54) - 143/125(126)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     17 mL
                                                                  2,025 mL
   PO:
             TF:
   IVF:
                                                                     17 mL
                                                                  2,025 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    840 mL
   Urine:
                                                                     20 mL
                                                                    180 mL
   NG:
                                                                    750 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.46/46/64/30/7
   Ve: 11.1 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended, dminished BS,
   decreased distention
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   349 K/uL
   183 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   34 mg/dL
   103 mEq/L
   143 mEq/L
   28.9 %
   25.0 K/uL
        [image002.jpg]
                             [**2160-8-2**]  11:08 PM
                             [**2160-8-3**]  02:45 AM
                             [**2160-8-3**]  03:48 AM
   WBC
   25.0
   Hct
   28.9
   Plt
   349
   Cr
   1.8
   TCO2
   37
   34
   Glucose
   183
   Other labs: PT / PTT / INR:12.4/23.6/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: 7.46/46/64
   Imaging: CT--10cm at greatest diameter
   CXR--Poor film, line good position, ETT not seen, severe scoliosis
   Assessment and Plan
   84 yo male with h/o MR now with worsening abdominal distention in the
   setting of fecal ball in sigmoid with near complete obstruction leading
   to significant distention which in the setting of underlying chest wall
   restriction has not moved to hypoxemic respiratory failure.  He has
   compliance on the ventilator this morning which is decreased but still
   at >40.  He has underlying scoliosis which may well be additive in
   consequence of impaired ventilation.  He has left lower lobe opacity
   which is hard to further define this morning.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -Will continue with A/C support and decrease RR given alkalemia and
   likely impaired capacity for ventilation across time
   -Will re-evaluate with ABG and look to optimize PEEP for support with
   hypoxemia likely driven by atelectasis, LLL consolidation and possible
   PNA
   2)Bowel Obstruction
Partial obstruction
   -Will continue with OGT suction
   -Will continue with GI and Surgery support
   -No surgery at this time
   -Will follow exam
   -Cipro/Flagyl/Fluc
   3)Hypotension
he has continued support with Neo at this time with
   requirement seen
   Causes are likely related to vasodilatory effects of SIRS in the
   setting of bowel obstruction, possible pneumonia and respiratory
   Will check CVP and CVO2
   Will change to Levophed for pressor
   3)Urosepsis-Appears to be resolved in recent past but with persistent
   hypotension and fever all possible sources have to be considered.
   Bactrim/Fluconazole
Urine pathogens
   4)Atrial Fibrillation-
   ASA
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2160-08-04 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-4**] 05:17 AM
 STOOL CULTURE - At [**2160-8-4**] 05:17 AM
 FEVER - 102.6
F - [**2160-8-4**] 12:00 AM
   - GI recs: continue decompression with NGT and rectal tube, continue
   enemas every few hours to soften sigmoid stool ball
   - Surgery recs: no surgical intervention per HCP
   - ID recs: agree with current abx (flagyl, cipro, cefepime, vanc,
   fluconazole)
   - decreased RR from 16 to 12, ABG 7.46/46/104/34.
   - pressor is changed from neo from levophed, slowly weaned down but
   couldn't wean off
   - CVP 2 at 5:30pm, on 0.04 levophed, given 1L LR
   - was spiking fevers to 101-102 all day, was given tylenol
   - given another liter LR at 11pm for low BP, CVP and UOP
   - PEEP increased to 15, O2 sat to 100% afterwards
   - Aline not [**Location (un) 118**] BP correctly, needes to be re-positioned through a
   wire
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 12:00 PM
   Cefipime - [**2160-8-3**] 01:30 PM
   Vancomycin - [**2160-8-3**] 02:10 PM
   Fluconazole - [**2160-8-3**] 05:53 PM
   Ciprofloxacin - [**2160-8-3**] 10:00 PM
   Metronidazole - [**2160-8-4**] 12:09 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-3**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-3**] 03:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-4**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.1
C (100.6
   HR: 84 (78 - 92) bpm
   BP: 108/44(60) {88/36(50) - 126/66(76)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (1 - 14)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  6,957 mL
                                                                    274 mL
   PO:
   TF:
   IVF:
                                                                  6,957 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,402 mL
                                                                    275 mL
   Urine:
                                                                    742 mL
                                                                    275 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  5,555 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG:
                                     pH
                                    7.45
                                    pCO2
                                     46
                                     pO2
                                     82
                                    HCO3
                                     33
   Ve: 10.8 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Labs / Radiology
   347 K/uL
   9.3 g/dL
   125 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.0 mEq/L
   30 mg/dL
   102 mEq/L
   139 mEq/L
   27.2 %
   23.0 K/uL
        [image002.jpg]
   , Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %,
                             [**2160-8-2**]  11:08 PM
                             [**2160-8-3**]  02:45 AM
                             [**2160-8-3**]  03:48 AM
                             [**2160-8-3**]  10:46 AM
                             [**2160-8-3**]  12:10 PM
                             [**2160-8-4**]  12:36 AM
                             [**2160-8-4**]  05:15 AM
                             [**2160-8-4**]  05:35 AM
   WBC
   25.0
   23.0
   Hct
   28.9
   33
   27.2
   Plt
   349
   347
   Cr
   1.8
   1.9
   TCO2
   37
   34
   34
   34
   32
   33
   Glucose
   183
   125
   Other labs:
   PT: 14.2
   PTT: 26.9
   INR: 1.2
   CK / CKMB / Troponin-T:79//,
   ALT / AST:15/15, Alk Phos / T Bili:62/0.2 Albumin:2.3 g/dL, LDH:202
   IU/L,
   Lactic Acid:1.5 mmol/L,
   Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Phenytoin: Pnd
   Phenoba: Pnd
   Micro:
   [**2160-7-27**] Ucx: yeast and e coli
   [**2160-7-26**] Blood culture 4/4 bottles E coli
   [**2165-7-31**]: blood culture pending
   [**8-3**]: urine culture pending
[**8-3**]: sputum culture:   GRAM STAIN (Final [**2160-8-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Imaging:
   CXR today (my read): no acute cardiopulmonary process. No volume
   overload.
   Assessment and Plan
   Assessment and Plan: Mr. [**Known lastname 2728**] is an 84 year old nursing home resident
   with dementia, mental retardation, DM2, chronic indwelling foley
   initially admitted with urosepsis and possible small extraperitoneal
   bladder perforation on [**7-26**] who subsequently developed hypoxemic
   respiratory failure.
   .
   # Hypoxemic respiratory failure:  Possibly secondary to increased
   abdominal distention, atelectasis due to low lung volumes, and pleural
   effusion/consolidation.  In addition he likely has some aspiration and
   per his floor team thought to have some pulmonary edema.  He rec'd some
   lasix and nebs without much effect and after being hypoxic to 86-90% on
   a non rebreather he began to tire and become more somnolent.  It is
   possible the patient some unwitnessed aspiration prior to intubation,
   versus during intubation as his chest x ray has a possible retrocardiac
   opacity (although not much worse).
   -s/p intubation, will attempt to address primary cause which is likely
   due to colonic distension
   -attempt to wean ventilator settings -> Obtain ABG.  Can drop RR to
   14.  [**Month (only) 8**] consider increasing PEEP pending PaO2.
   -sputum cx given possible retrocardiac opacity
   -current abx are geared towards GI pathogens; monitor for clinical
   worsening
   .
   # Sepsis: meets the criteria. Patient has been spiking fevers and WBC
   has been rising for 3-4 days prior to transfer to ICU, and since
   intubation, patient has been requiring pressor to maintain MAP >65.
   Initially the hypotension was thought to be due to abdominal process in
   combination with higher PEEP and sedating medications as prior to
   intubation pt was normotensive and also on all of his home
   antihypertensives including HCTZ, metoprolol, isordil and norvasc.
   However, now that patient has been intubated for many hours and he
   continues to require pressors, and putting together his fevers and
   rising WBC, it is likely he is septic. In terms of the source of
   infection, GI source is most likely as patient has distended colon, it
   is possible that patient becomes transiently bacteremic through
   distended bowel loops.  GU source is also likely given positive UA and
   patient
s history of urosepsis during the earlier stay in ICU.
   Pulmonary source is less likely given clear CXR even after giving 3L NS
   yesterday (would expect infections to blossom with IVF repletion), but
   patient sputum culture grew out GPC and GNR (speciation still pending).
   No skin breakdown to account for this sepsis. Other source of infection
   include [**Last Name (LF) 8869**], [**First Name3 (LF) **] a CT sinus could be obtained to rule it out. TTE
   could be done to rule out endocarditis although patient has no new
   murmurs, and blood culture has been negative.
   - fluid boluses or levophed prn to maintain MAP>65, CVP>[**9-1**], ScvO2
   >70%
   - follow lactate
   - continue cipro, flagyl, cefepime, vanc and fluconazole broad
   coverage. Cipro and flagyl offer good GI coverage. HAP is covered with
   this regimen, atypical pneumonia is not covered but since patient has
   been in the hospital unlikely atypical pna. Pseudomonas is double
   covered.
   - f/u blood culture, urine culture and sputum culture
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: no evidence of a mechanical obstruction per
   radiology, unclear if it is related to a stool ball in his sigmoid
   colon or patient has ileus and [**Last Name (un) **]
s syndrome. Per surgery any
   surgical intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -tap water enemas every few hours, per GI
   -NGT and rectal tube in 30 cm for decompression
   -electrolyte repletion
   -follow lactate
   -continue flagyl, cipro, fluconazole, bactrim as per gen [**Doctor First Name 91**]; consider
   narrowing spectrum
   -f/u GI and gen [**Doctor First Name 91**] recs
   .
   # Urosepsis: ID has been consulted.
   -f/u ID recs
   -continue bactrim for ecoli bacteremia and continue IV fluc for yeast
   in urine per ID
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #DM: continue glargine and sliding scale insulin.
   .
   #Hypernatremia: stable.
   -in a.m. will calculate new free water deficit given fluid shifts and
   change in clinical status today
   .
   #Acute renal failure - currently 1.8 and has leveled off.  follow uop
   and bolus prn to maintain UOP > 30cc.
   -send urine lytes and urinalysis if creatinine worsens
   -trend
   -renally dose meds
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV)
   .
   #osteoporosis - continue calcium and vitamin d
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPi
   VAP:
   Comments:
   Communication:  Comments: [**First Name5 (NamePattern1) 792**] [**Last Name (NamePattern1) 8717**] [**0-0-**]
   Sister [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**]
   Code status: Full
   Disposition : ICU

2160-08-04 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Partial Sigmoid Obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-4**] 05:17 AM
 STOOL CULTURE - At [**2160-8-4**] 05:17 AM
 FEVER - 102.6
F - [**2160-8-4**] 12:00 AM
   -GI and Surgery Remain in agreement with enema and decompression for Rx
   -Patient change to Levophed yesterday and now weaned to off
   -Patient with decrease in A/C support with machine delivered rate
   decreased.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 12:00 PM
   Cefipime - [**2160-8-3**] 01:30 PM
   Vancomycin - [**2160-8-3**] 02:10 PM
   Fluconazole - [**2160-8-3**] 05:53 PM
   Ciprofloxacin - [**2160-8-3**] 10:00 PM
   Metronidazole - [**2160-8-4**] 07:56 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-3**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-3**] 03:48 PM
   Dilantin - [**2160-8-4**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-4**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.8
C (100.1
   HR: 94 (78 - 94) bpm
   BP: 141/44(65) {141/44(65) - 141/44(65)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 354 (1 - 354)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  6,957 mL
                                                                    456 mL
   PO:
   TF:
   IVF:
                                                                  6,957 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  1,402 mL
                                                                    450 mL
   Urine:
                                                                    742 mL
                                                                    450 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  5,555 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   SpO2: 98%
   ABG: 7.47/43/95.[**Numeric Identifier 253**]/28/6
   Ve: 8.8 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   347 K/uL
   125 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.0 mEq/L
   30 mg/dL
   102 mEq/L
   139 mEq/L
   27.2 %
   23.0 K/uL
        [image002.jpg]
                             [**2160-8-2**]  11:08 PM
                             [**2160-8-3**]  02:45 AM
                             [**2160-8-3**]  03:48 AM
                             [**2160-8-3**]  10:46 AM
                             [**2160-8-3**]  12:10 PM
                             [**2160-8-4**]  12:36 AM
                             [**2160-8-4**]  05:15 AM
                             [**2160-8-4**]  05:35 AM
                             [**2160-8-4**]  09:05 AM
   WBC
   25.0
   23.0
   Hct
   28.9
   33
   27.2
   Plt
   349
   347
   Cr
   1.8
   1.9
   TropT
   0.05
   TCO2
   37
   34
   34
   34
   32
   33
   32
   Glucose
   183
   125
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:15/15, Alk Phos / T Bili:62/0.2,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.3 g/dL, LDH:202 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: 7.46/46/104
   Imaging: CXR--Evolution of RLL infiltrate since admission
   Assessment and Plan
   84 yo male with h/o urosepsis and now re-admit to the [**Hospital Ward Name 29**] ICU with
   respiratory failure characterized by progressive hypoxemia all in the
   setting of evolution of significant abdominal distention in the setting
   of partial sigmoid obstruction.
   1)Respiratory Failure-Patient wtih move to PSV this morning with
   persistence of respiratory alkalosis.  He maintains elevated PEEP
   requirement but reasonable Ve requirement.
   -PSV 10/15
   -Will look to wean FIO2 to 0.4 prior to PEEP wean given significant
   abdominal compromise
   -Limitations to extubation do include mental status and ongoing active
   infection/sepsis which has shown some trend to better.
   -Cipro/Flagyl/Vanco/Cefepime all in place for what has evolved into a
   reasonably clear picture of pneumonia in the setting of likely
   aspiration.
   2)Partial Sigmoid Obstruction-
   -Continue wtih decompression
   -Continue wtih enemas
   -Follow exam
   -Appreciate surgery and GI input.
   -Will follow up CXR for any suggestion of free air
   3)Sepsis-Patient with recurrent and significant fevers persisting.  He
   has had some modest improvement in abdominal exam but with concerning
   and persistent high requirements for support of ventilation and
   oxygenation.  Patient did have worsening hypoxia overnight with higher
   PEEP requirement determined.  Pulmonary source is indeed most likely
   with hospital acquired pneumonia.
   -Patient with adequate volume given--CVP remains elevated in the
   setting of increaed PEEP.
   -Continue ABX
   -Move to wean pressors via maintanance of adequate volume
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition: npo with bowel [**Last Name (LF) 8872**], [**First Name3 (LF) 124**] have to consider TPN start
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:   Good discussions with patient health care
   proxy and currently are purusing full treatment plan with surgery not
   desired and with reasonable refusal of surgical interventions.  Goal is
   for patient to return to home with independent living if at all
   possible.
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2160-08-05 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2160-8-4**] 04:45 PM
 FEVER - 101.4
F - [**2160-8-4**] 04:00 PM
   - Levophed weaned off this AM
   - GI recs: repeat CT abd/pelvis w/o contrast to reassess improvement of
   "stool ball" -> ordered, however Radiology questioned why not PO
   contrast for better study -> paged GI but no reply so will f/u with
   them in AM
   - Surgery recs: continue OGT and rectal tube, f/u c diff, continue IV
   abx, no surgical intervention
   - ID recs: continue currect abx regimen, await c diff, if positive,
   switch to PO vanc from flagyl; keep cipro on for double coverage for
   possible pseudomonas, keep flucanozole on for yeast in urine.
   - dc'd Cipro, but put it back per ID
   - switched to CPAP this AM PS 10, PEEP 15, FiO2 50%,
   ABG was pH 7.46 pCO2 44 pO2 74 HCO3 32
   - phenytoin corrected level is low at 4, so loaded with 500 mg pnce
   - tried to replace catheter in A line, but still not [**Location (un) 118**]
   accurately. ?try to replace line altogether.
   - KUB today showed no free air, decreased colonic dilatation
   - - around 5 pm- pt self-extubated, pt was re-intubated by anesthesia
   -> his airway was obviously "floppy" had signs of tracheomalacia
   - Contact person, [**Name2 (NI) 792**] came by, expressed that pt should be DNR, not
   DNI at this time, plans to discuss DNI with his sister-in-law. [**Name (NI) 99**] to
   contact nursing home to confirm who the health care proxy is and
   proceed with discussion regarding code status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 12:00 PM
   Cefipime - [**2160-8-3**] 01:30 PM
   Vancomycin - [**2160-8-4**] 09:21 AM
   Fluconazole - [**2160-8-4**] 12:00 PM
   Ciprofloxacin - [**2160-8-4**] 11:00 PM
   Metronidazole - [**2160-8-5**] 12:50 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-5**] 12:00 AM
   Midazolam (Versed) - [**2160-8-5**] 12:07 AM
   Fentanyl - [**2160-8-5**] 12:07 AM
   Dilantin - [**2160-8-5**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-5**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.7
   HR: 101 (84 - 118) bpm
   BP: 128/49(68) {103/36(54) - 157/63(85)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,621 mL
                                                                    160 mL
   PO:
   TF:
   IVF:
                                                                  1,621 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    465 mL
   Urine:
                                                                  1,665 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 354 (350 - 383) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 29
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.38/45/124/27/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, LLE but not RLE on commands.
   Labs / Radiology
   302 K/uL
   8.5 g/dL
   167 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   25.7 %
   18.4 K/uL
        [image002.jpg]
                             [**2160-8-3**]  03:48 AM
                             [**2160-8-3**]  10:46 AM
                             [**2160-8-3**]  12:10 PM
                             [**2160-8-4**]  12:36 AM
                             [**2160-8-4**]  05:15 AM
                             [**2160-8-4**]  05:35 AM
                             [**2160-8-4**]  09:05 AM
                             [**2160-8-4**]  12:22 PM
                             [**2160-8-4**]  05:10 PM
                             [**2160-8-5**]  03:17 AM
   WBC
   23.0
   18.4
   Hct
   33
   27.2
   25.7
   Plt
   347
   302
   Cr
   1.9
   1.4
   TropT
   0.05
   TCO2
   34
   34
   34
   32
   33
   32
   32
   28
   Glucose
   125
   167
   Other labs:
   PT / PTT / INR:14.9/30.0/1.3,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Vanc trough: 10
   Micro:
   [**2160-7-27**] Ucx: yeast and e coli
   [**2160-7-26**] Blood culture 4/4 bottles E coli
   c.diff neg x3
   [**2165-7-31**]: blood culture pending
   [**8-3**]: urine culture pending
[**8-3**]: sputum culture:   GRAM STAIN (Final [**2160-8-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Imaging:
   - KUB ([**2160-8-4**]): IMPRESSION: Decrease in colonic dilatation, no free
   air.
   - CXR today (my read): RLL consolidation stable compared to yesterday,
   consistent with infectious etiology. No volume overload. ETT visible in
   appropriate position.
   Assessment and Plan
   Assessment and Plan: Mr. [**Known lastname 2728**] is an 84 year old nursing home resident
   with dementia, mental retardation, DM2, chronic indwelling foley
   initially admitted with urosepsis and possible small extraperitoneal
   bladder perforation on [**7-26**] who subsequently developed hypoxemic
   respiratory failure.
   .
   # Hypoxemic respiratory failure:  Possibly secondary to increased
   abdominal distention and pneumonia which is evident on CXR. Patient
   sputum culture grew out GPC and GNR (speciation still pending). In
   addition per his floor team thought to have some pulmonary edema.  He
   rec'd some lasix and nebs without much effect and after being hypoxic
   to 86-90% on a non rebreather he began to tire and become more
   somnolent.  It is possible the patient some unwitnessed aspiration
   prior to intubation, versus during intubation.
   -continue to wean him off ventilator, now back on AC
   -continue broad coverage with cipro, flagyl, cefepime, vanc and
   fluconazole.
   - increase vanc to 1gm q12h
   -f/u sputum culture
   -continue GI decompression with NGT and rectal tube, tap water enemas
   -f/u ID recs on the course of antibiotics
   .
   # Sepsis: meets the criteria. Patient has been spiking fevers and WBC
   has been rising for 3-4 days prior to transfer to ICU, and since
   intubation, patient has been requiring pressor to maintain MAP >65.
   Initially the hypotension was thought to be due to abdominal process in
   combination with higher PEEP and sedating medications as prior to
   intubation pt was normotensive and also on all of his home
   antihypertensives including HCTZ, metoprolol, isordil and norvasc.
   However, now that patient has been intubated for many hours and he
   continues to require pressors, and putting together his fevers and
   rising WBC, it is likely he is septic. In terms of the source of
   infection, GI source is most likely as patient has distended colon, it
   is possible that patient becomes transiently bacteremic through
   distended bowel loops.  GU source is also likely given positive UA and
   patient
s history of urosepsis during the earlier stay in ICU.
   Pulmonary infection could play a role as well, but the pneumonia likely
   occurred during intubation as a result of aspiration in the long
   intubation process. No skin breakdown to account for this sepsis. Other
   source of infection include [**Last Name (LF) 8869**], [**First Name3 (LF) **] a CT sinus could be obtained
   to rule it out. TTE could be done to rule out endocarditis although
   patient has no new murmurs, and blood culture has been negative.
   - pt is off pressor now
   - continue cipro flagyl, cefepime, vanc and fluconazole broad coverage.
   Cefepime, cipro and flagyl offer good GI coverage. HAP is covered with
   this regimen, atypical pneumonia is not covered but since patient has
   been in the hospital unlikely atypical pna. Pseudomonas is double
   covered.
   - f/u CT abd/pelvis
   - per GI, get daily KUB for 3 days, but since getting CT abd/pelvis,
   will defer KUB today
   - f/u blood culture, urine culture and sputum culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - follow lactate
   - f/u GI and ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: no evidence of a mechanical obstruction per
   radiology, unclear if it is related to a stool ball in his sigmoid
   colon or patient has ileus and [**Last Name (un) **]
s syndrome. Per surgery any
   surgical intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -tap water enemas every few hours, per GI
   -NGT and rectal tube in 30 cm for decompression
   - f/u CT abd/pelvis
   - per GI, get daily KUB for 3 days, but since getting CT abd/pelvis,
   will defer KUB today
   -electrolyte repletion
   -follow lactate
   -continue flagyl, cipro, fluconazole, bactrim as per gen [**Doctor First Name 91**]
   -f/u GI and gen [**Doctor First Name 91**] recs
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: this morning not moving right LE. On morning rounds,not
   alert enough to further assess neuro status, but does grimace to pain
   in all 4 extremities
   - re-assess neuro status when pt is more alert
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV)
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care - DNR ?not DNI, need to clarify with HCP
   -update family and clarify code status
   ICU Care
   Nutrition: NPO
   - Start TF (trophic feed) or TPN today
   - nutrition consult today
   Glycemic Control:  sc insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR ?not DNI, need to clarify with HCP
   Disposition : ICU

2160-08-06 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2160-8-5**] 07:15 PM
   - still off pressors
   - TPN started
   - GI recs: consider adding more lactulose to evacuate his right colon
   - [**Doctor First Name **] recs: none
   - ID recs: continue vanc/cefepime/cipro for HAP until sensitiviites are
   back, continue flagyl for GI source, and continue fluconazole for 14
   days
   - back on AC in the AM: 500X12.  FiO2: 50%, PEEP: 15
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 12:00 PM
   Cefipime - [**2160-8-5**] 12:00 PM
   Fluconazole - [**2160-8-5**] 12:30 PM
   Metronidazole - [**2160-8-5**] 04:00 PM
   Vancomycin - [**2160-8-5**] 08:28 PM
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-5**] 08:00 AM
   Dilantin - [**2160-8-5**] 04:00 PM
   Midazolam (Versed) - [**2160-8-5**] 07:25 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-6**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 91 (87 - 120) bpm
   BP: 126/48(65) {85/39(54) - 167/98(107)} mmHg
   RR: 17 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  1,639 mL
                                                                    371 mL
   PO:
   TF:
   IVF:
                                                                  1,372 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    185 mL
   Urine:
                                                                  1,695 mL
                                                                    185 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -506 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 323 (323 - 323) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/37/108/25/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands.
   Labs / Radiology
   309 K/uL
   8.3 g/dL
   180 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   24.9 %
   16.0 K/uL
        [image002.jpg]
                             [**2160-8-4**]  12:36 AM
                             [**2160-8-4**]  05:15 AM
                             [**2160-8-4**]  05:35 AM
                             [**2160-8-4**]  09:05 AM
                             [**2160-8-4**]  12:22 PM
                             [**2160-8-4**]  05:10 PM
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
   WBC
   23.0
   18.4
   16.0
   Hct
   33
   27.2
   25.7
   24.9
   Plt
   [**Telephone/Fax (3) 8900**]
   Cr
   1.9
   1.4
   1.3
   TropT
   0.05
   TCO2
   32
   33
   32
   32
   28
   28
   28
   Glucose
   125
   167
   180
   Other labs:
    PT / PTT / INR:14.7/25.6/1.3,
   Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Micro:
   [**2160-7-27**] Ucx: yeast and e coli
   [**2160-7-26**] Blood culture 4/4 bottles E coli
   c.diff neg x3
   [**2165-7-31**]: blood culture pending
   [**7-31**] and [**8-3**]: urine culture: YEAST.    >100,000 ORGANISMS/ML.
[**8-3**]: sputum culture:   GRAM STAIN (Final [**2160-8-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2160-8-5**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
   Imaging: CT abdomen/pelvis: 1. Interval decrease in the degree of
   colonic distension without evidence of bowel obstruction. Although the
   vascular patency cannot be assessed on this examination which is
   performed without IV contrast, there is no secondary evidence of bowel
   ischemia. Continued clinical correlation is recommended. 2. New right
   lower lobe consolidation consistent with aspiration or pneumonia. 3.
   Nasogastric tube with sideholes at level of GE junction, should be
   advanced. 4. Unchanged appearance of the appendix which is dilated and
   fluid filled, but without periappendiceal inflammatory change.
   5. Unchanged appearance of thickened bladder with multiple diverticula.
   CXR [**8-6**] (my read): progression of RLL consolidation, consistent with
   interval progression of aspiration pneumonitis/pneumonia.
   Assessment and Plan
   Assessment and Plan: Mr. [**Known lastname 2728**] is an 84 year old nursing home resident
   with dementia, mental retardation, DM2, chronic indwelling foley
   initially admitted with urosepsis and possible small extraperitoneal
   bladder perforation on [**7-26**] who subsequently developed hypoxemic
   respiratory failure.
   .
   # Hypoxemic respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis which is
   evident on CXR. Patient sputum culture grew out GPC and GNR, culture
   revealed oropharyngeal flora and yeast. It is possible the patient some
   unwitnessed aspiration prior to intubation, versus during intubation.
   No evidence of volume overload.
   -change to pressure support as compliance is about 50 (better as
   colonic distension is better), can decrease PEEP, get ABG to monitor
   respiratory status after changing settings
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**]) , per ID d/c cipro,  can d/c flagyl as c.diff neg x 3, and
   continue fluconazole for 14 days (day 1: [**8-2**]) .
   - check vanc trough level tomorrow
   -continue GI decompression with NGT and rectal tube, tap water enemas.
   Colonic distention appears to be decreasing on imaging and on physical
   exam.
   -f/u ID recs
   .
   # Sepsis: meets the criteria. Patient has been spiking fevers and WBC
   has been rising for 3-4 days prior to transfer to ICU, and since
   intubation, patient has been requiring pressor to maintain MAP >65.
   Initially the hypotension was thought to be due to abdominal process in
   combination with higher PEEP and sedating medications as prior to
   intubation pt was normotensive and also on all of his home
   antihypertensives including HCTZ, metoprolol, isordil and norvasc.
   However, now that patient has been intubated for many hours and he
   continues to require pressors, and putting together his fevers and
   rising WBC, it is likely he is septic. In terms of the source of
   infection, GI source is most likely as patient has distended colon, it
   is possible that patient becomes transiently bacteremic through
   distended bowel loops.  GU source is also likely given positive UA and
   patient
s history of urosepsis during the earlier stay in ICU.
   Pulmonary infection could play a role as well, but the pneumonia likely
   occurred during intubation as a result of aspiration in the long
   intubation process. No skin breakdown to account for this sepsis. Other
   source of infection include [**Last Name (LF) 8869**], [**First Name3 (LF) **] a CT sinus could be obtained
   to rule it out. TTE could be done to rule out endocarditis although
   patient has no new murmurs, and blood culture has been negative.
   - pt is off pressor now
   - continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1
   = [**8-3**]) , per ID d/c cipro,  can d/c flagyl as c.diff neg x 3, and
   continue fluconazole for 14 days (day 1: [**8-2**]) .
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - follow lactate
   - f/u GI and ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging and on clinical exam. no
   evidence of a mechanical obstruction per radiology, unclear if it is
   related to a stool ball in his sigmoid colon or patient has ileus and
   [**Last Name (un) **]
s syndrome. Per surgery any surgical intervention will likely
   involve a total colectomy. Per GI sigmoidoscopy will not be able to
   relieve an obstruction related to stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c tap water enemas per GI
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**]) , per ID d/c cipro,  can d/c flagyl as c.diff neg x 3, and
   continue fluconazole for 14 days (day 1: [**8-2**]) .
   -f/u GI and gen [**Doctor First Name 91**] recs
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: yesterday morning not moving right LE. On morning
   rounds,not alert enough to further assess neuro status, but did grimace
   to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV)
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care - DNR ?not DNI, need to clarify with HCP
   -update family and clarify code status
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition:
   TPN without Lipids - [**2160-8-5**] 05:39 PM 42 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR ?not DNI, need to clarify with HCP
   Disposition : ICU

2160-08-06 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2160-8-5**] 07:15 PM
   -Maintained off pressors
   -TPN started
   -A/C support in ventilator
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-8-3**] 12:00 PM
   Cefipime - [**2160-8-5**] 12:00 PM
   Fluconazole - [**2160-8-5**] 12:30 PM
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Vancomycin - [**2160-8-6**] 08:00 AM
   Metronidazole - [**2160-8-6**] 08:55 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Dilantin - [**2160-8-5**] 04:00 PM
   Midazolam (Versed) - [**2160-8-5**] 07:25 PM
   Pantoprazole (Protonix) - [**2160-8-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, low grade fever
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-8-6**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 89 (87 - 120) bpm
   BP: 92/45(54) {85/43(54) - 153/98(107)} mmHg
   RR: 22 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  1,639 mL
                                                                    943 mL
   PO:
   TF:
   IVF:
                                                                  1,372 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    645 mL
   Urine:
                                                                  1,695 mL
                                                                    425 mL
   NG:
                                                                    400 mL
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                   -506 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/37/108/25/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   309 K/uL
   180 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   24.9 %
   16.0 K/uL
        [image002.jpg]
                             [**2160-8-4**]  12:36 AM
                             [**2160-8-4**]  05:15 AM
                             [**2160-8-4**]  05:35 AM
                             [**2160-8-4**]  09:05 AM
                             [**2160-8-4**]  12:22 PM
                             [**2160-8-4**]  05:10 PM
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
   WBC
   23.0
   18.4
   16.0
   Hct
   33
   27.2
   25.7
   24.9
   Plt
   [**Telephone/Fax (3) 8900**]
   Cr
   1.9
   1.4
   1.3
   TropT
   0.05
   TCO2
   32
   33
   32
   32
   28
   28
   28
   Glucose
   125
   167
   180
   Other labs: PT / PTT / INR:14.7/25.6/1.3, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:15/15, Alk Phos / T Bili:62/0.2,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:202 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: 7.47/37/108
   Imaging: CT Scan
improved colonic distention noted, RLL consolidation
   seen, no evidence of peri-appendiceal inflammaion.
   CXR
Persistence of right sided infiltrate with small effusion
   suggested.  Left side without obvious change
   Assessment and Plan
   84 yo male with initial admission with urosepsis now with evolution of
   signficant abdominal distention with fecal impaction and in that
   setting has had evolution of respiratory failure with likely component
   of chest wall restriction and hospital acquired pneuomnia seen.
   1)Respiratory Failure-Acute-Importantly we have seen a trend down in
   the WBC count and with the acute insult of self-extubation and
   re-intubation this may represent a quieting of the inflammation and
   pneumonitis seen following that event.  The issue of his upper and
   central airway patency will have to be carefully managed at the time of
   attempted extubation.
   -Vanco/Cefepime
8 day course given persistence of infiltrate
   -Do have minimum of secretions and will look to move to PSV as
   tolerated with abdominal distention
   -Will need to see some trend to improved compliance
   -PSV 10/18 and wean PEEP as tolerated today given improving abdominal
   exam
   -ABG today as needed
   2)Abdominal Distention, secondary to Colonic Obstruction-Improved based
   on CT scan
   -Continue with rectal tube and lactulose to work to effect clearing or
   colonic issues
   3)Urosepsis-
   -Will maintain Fluc for 14 day course
   Otherwise improved
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   TPN without Lipids - [**2160-8-5**] 05:39 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: Hep SQ TID
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 45

2160-08-07 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient was put on PS, PEEP decreased to 12, tolerated well.
   - a line placed.
   - discontinued cipro and flagyl as per ID
   - Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If medically optimized
   and pt is extubated, he would be DNI at that time, and comfort measures
   only if not tolerating after extubation. POE is updated.
   - GI recs: continue decompression with rectal tube, d/c enemas,
   continue lactulose, regular KUBs, Gi signed off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Metronidazole - [**2160-8-6**] 08:55 AM
   Cefipime - [**2160-8-6**] 12:06 PM
   Fluconazole - [**2160-8-6**] 01:06 PM
   Vancomycin - [**2160-8-6**] 07:45 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-7**] 12:00 AM
   Midazolam (Versed) - [**2160-8-7**] 06:48 AM
   Fentanyl - [**2160-8-7**] 06:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 99 (81 - 153) bpm
   BP: 182/66(120) {138/37(63) - 182/71(120)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,206 mL
                                                                    593 mL
   PO:
             TF:
   IVF:
                                                                  1,058 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    450 mL
   Urine:
                                                                  1,150 mL
                                                                    450 mL
   NG:
                                                                    540 mL
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 465 (336 - 465) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.41/43/113/23/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands.
   Labs / Radiology
   396 K/uL
   8.7 g/dL
   153 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   37 mg/dL
   108 mEq/L
   141 mEq/L
   26.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2160-8-4**]  12:22 PM
                             [**2160-8-4**]  05:10 PM
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
   WBC
   18.4
   16.0
   14.3
   Hct
   25.7
   24.9
   26.3
   Plt
   [**Telephone/Fax (3) 8912**]
   Cr
   1.4
   1.3
   1.3
   1.1
   TCO2
   32
   28
   28
   28
   28
   28
   Glucose
   167
   180
   109
   153
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   -Vanc level: [**8-5**]: 10.0
   - lactate: 0.8
   - micro:
   - blood culture: pending [**8-4**]
   - urine culture: yeast, >[**Numeric Identifier 8916**] [**8-4**]
   - CXR ([**8-7**]): my read: appears stable with mild improvement in right
   lower lobe
   Assessment and Plan
   Assessment and Plan: 84 year old nursing home resident with dementia,
   mental retardation, initially admitted with urosepsis and with
   development of hypoxemic respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Continues to have secretions which will be a
   barrier to extubation.  Patient sputum culture grew out GPC and GNR,
   culture revealed oropharyngeal flora and yeast.
   - continue to see WBC trending down.
   - suction secretions
   - changed to PS 14/10, PEEP was weaned down
   - continue broad coverage with cefepime, vanc (day 5 of 8 day course)
   (day 1: Day 1 = [**8-3**]).  Check vanc level.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA, and patient
s history of
   urosepsis during prior ICU stay.  GI source is also likely as patient
   has distended colon, it is possible that patient becomes transiently
   bacteremic through distended bowel loops.  Pulmonary infection could
   play a role as well, but the pneumonia likely occurred during
   intubation as a result of aspiration in the long intubation process.
   - WBC continuing to trend down
   - continue fluconazole (day 6 of 14 day course) (day 1: [**8-2**])
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition:
   TPN without Lipids - [**2160-8-5**] 05:39 PM 42 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-07 12:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   respiratory Failiure
   Bowel obstruction
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2160-8-6**] 08:28 AM
 ARTERIAL LINE - START [**2160-8-7**] 12:14 AM
   PEEP able to be weaned
   PSV well tolerated
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Metronidazole - [**2160-8-6**] 08:55 AM
   Cefipime - [**2160-8-6**] 12:06 PM
   Fluconazole - [**2160-8-6**] 01:06 PM
   Vancomycin - [**2160-8-6**] 07:45 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-7**] 08:00 AM
   Fentanyl - [**2160-8-7**] 09:30 AM
   Midazolam (Versed) - [**2160-8-7**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2160-8-7**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 81 (81 - 153) bpm
   BP: 86/49(61) {86/37(58) - 212/76(120)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,206 mL
                                                                  1,017 mL
   PO:
             TF:
   IVF:
                                                                  1,058 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,080 mL
   Urine:
                                                                  1,150 mL
                                                                  1,080 mL
   NG:
                                                                    540 mL
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 465 (336 - 465) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/43/113/23/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   396 K/uL
   153 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   37 mg/dL
   108 mEq/L
   141 mEq/L
   26.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2160-8-4**]  12:22 PM
                             [**2160-8-4**]  05:10 PM
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
   WBC
   18.4
   16.0
   14.3
   Hct
   25.7
   24.9
   26.3
   Plt
   [**Telephone/Fax (3) 8912**]
   Cr
   1.4
   1.3
   1.3
   1.1
   TCO2
   32
   28
   28
   28
   28
   28
   Glucose
   167
   180
   109
   153
   Other labs: PT / PTT / INR:13.4/28.1/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:15/15, Alk Phos / T Bili:62/0.2,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:202 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR--Patient with right lower lobe opacity mildly improved
   across time
   Assessment and Plan
   84 yo male with history of Mental Retardation and with initial insult
   as urosepsis and now with persistent hypoxemic respiratory failure.  He
   has capacity to follow commands, he has had trend down in WBC count and
   some improvement in CXR opacity
   1)Respiratory Failuire-Limited by secretion volume and mental status-
   -Vanco/cefepime day [**2-27**]
   -Will need to get pulmonary secretion volume down prior to attempt at
   extubation
   2)Sepsis-
   Vanco/Cefepime/Fluconazole
   -Improved BP this morning
   3)Fecal impaction-
   -Peristent exam but improved on CT scan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2160-8-6**] 06:19 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Plans discussed in full with patient
 HCP
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2160-08-08 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaned PEEP -> ABG pH 7.38/ 46 / 113
   Type:Art; Intubated; FiO2%:50; PEEP:10
   - Vanc trough was 29 -> changed to q24h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Metronidazole - [**2160-8-6**] 08:55 AM
   Cefipime - [**2160-8-6**] 12:06 PM
   Vancomycin - [**2160-8-6**] 07:45 PM
   Fluconazole - [**2160-8-7**] 01:05 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-7**] 08:30 AM
   Midazolam (Versed) - [**2160-8-7**] 09:30 AM
   Fentanyl - [**2160-8-7**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-8**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-8**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 87 (77 - 100) bpm
   BP: 98/55(71) {74/40(58) - 212/108(122)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,177 mL
                                                                    672 mL
   PO:
             TF:
   IVF:
                                                                    423 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    230 mL
   Urine:
                                                                  1,940 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 404 (381 - 426) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.38/46/113/24/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands.
   Labs / Radiology
   422 K/uL
   8.0 g/dL
   196 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   25.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
   WBC
   18.4
   16.0
   14.3
   10.8
   Hct
   25.7
   24.9
   26.3
   25.1
   Plt
   [**Telephone/Fax (3) 8932**]22
   Cr
   1.4
   1.3
   1.3
   1.1
   1.0
   TCO2
   28
   28
   28
   28
   28
   Glucose
   167
   180
   109
   153
   196
   Other labs: PT / PTT / INR:13.1/26.4/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:20/23, Alk Phos / T Bili:76/0.1,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:181 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 84 year old nursing home resident with dementia,
   mental retardation, initially admitted with urosepsis and with
   development of hypoxemic respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Continues to have secretions which will be a
   barrier to extubation.
   - continue to see WBC trending down.
   - suction secretions
   - changed to PS 14/10, PEEP was weaned down
   - continue broad coverage with cefepime, vanc (day 6 of 8 day course)
   (day 1: Day 1 = [**8-3**]).  Check vanc level.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA, and patient
s history of
   urosepsis during prior ICU stay.  GI source is also likely as patient
   has distended colon, it is possible that patient becomes transiently
   bacteremic through distended bowel loops.  Pulmonary infection could
   play a role as well, but the pneumonia likely occurred during
   intubation as a result of aspiration in the long intubation process.
   - WBC continuing to trend down
   - continue fluconazole (day 6 of 14 day course) (day 1: [**8-2**])
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition:
   TPN without Lipids - [**2160-8-5**] 05:39 PM 42 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-08 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with continued thick secretions
   patient able to be weaned in PSV mode
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-8-5**] 09:30 PM
   Metronidazole - [**2160-8-6**] 08:55 AM
   Cefipime - [**2160-8-6**] 12:06 PM
   Fluconazole - [**2160-8-7**] 01:05 PM
   Vancomycin - [**2160-8-8**] 08:40 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-8**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2160-8-8**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (77 - 95) bpm
   BP: 112/42(64) {74/39(58) - 170/108(122)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,177 mL
                                                                  1,344 mL
   PO:
             TF:
   IVF:
                                                                    423 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    845 mL
   Urine:
                                                                  1,940 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (369 - 426) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.38/46/113/24/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   422 K/uL
   196 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   25.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-5**]  03:17 AM
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
   WBC
   18.4
   16.0
   14.3
   10.8
   Hct
   25.7
   24.9
   26.3
   25.1
   Plt
   [**Telephone/Fax (3) 8932**]22
   Cr
   1.4
   1.3
   1.3
   1.1
   1.0
   TCO2
   28
   28
   28
   28
   28
   Glucose
   167
   180
   109
   153
   196
   Other labs: PT / PTT / INR:13.1/26.4/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:20/23, Alk Phos / T Bili:76/0.1,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:181 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-
   Assessment and Plan
   84 yo male with history of mental retardation and now with significant
   and persistent hypoxemic respiratory failure and with primarily mental
   status, weakness and high volume secretions remaining as barriers to
   extubation.
   1)Respiratory Failure-
   -Vanco/Cefepime
   -Continue to suction
   -Will continue to wean PSV and look to extubation with secretions
   minimized and abdomen decompressed
   2)Abdominal Distention-
   -Cefepime/Vanco/Flagyl
   3)Sepsis-
   -Improved with antibiotics
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2160-8-7**] 05:34 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR but would re-intubate for self extubation
   Disposition :ICU
   Total time spent: 35 minutes

2160-08-09 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - neuro exam after decreased sedation in the afternoon
   - decrease PEEP to 8
   - RSBI from this AM is 121
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2160-8-6**] 08:55 AM
   Vancomycin - [**2160-8-8**] 08:40 AM
   Cefipime - [**2160-8-8**] 01:00 PM
   Fluconazole - [**2160-8-8**] 03:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-8**] 11:38 PM
   Dilantin - [**2160-8-8**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-9**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 92 (81 - 97) bpm
   BP: 110/67(85) {80/39(58) - 159/104(117)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,537 mL
                                                                    652 mL
   PO:
             TF:
   IVF:
                                                                    725 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    890 mL
   Urine:
                                                                  1,945 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 392 (369 - 485) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 10 L/min
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands.
   Labs / Radiology
   505 K/uL
   8.5 g/dL
   193 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   33 mg/dL
   112 mEq/L
   143 mEq/L
   25.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
                             [**2160-8-9**]  05:16 AM
   WBC
   16.0
   14.3
   10.8
   11.1
   Hct
   24.9
   26.3
   25.1
   25.4
   Plt
   [**Telephone/Fax (3) 8952**]05
   Cr
   1.3
   1.3
   1.1
   1.0
   0.8
   TCO2
   28
   28
   28
   28
   28
   Glucose
   180
   109
   153
   196
   193
   Other labs: PT / PTT / INR:13.6/29.9/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:31/44, Alk Phos / T Bili:91/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:237 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Micro: P blood cx ([**8-3**], [**8-4**]) NGTD
   C Diff negative
   MRSA negative
   CXR ([**8-9**]): stable
   Assessment and Plan
   Assessment and Plan: 84 year old nursing home resident with dementia,
   mental retardation, initially admitted with urosepsis and with
   development of hypoxemic respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Continues to have secretions which will be a
   barrier to extubation.
   - continue to see WBC trending down.
   - suction secretions, which are less
   - changed to PS 14/8, PEEP weaned down to 8.  Will calculate RSBI again
   today and try SBT.
   - continue broad coverage with cefepime, vanc (day 7 of 8 day course)
   (day 1: Day 1 = [**8-3**]).  Vanc changed to q24h bc vanc level of 29.
   Check vanc level.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA, and patient
s history of
   urosepsis during prior ICU stay.  GI source is also likely as patient
   has distended colon, it is possible that patient becomes transiently
   bacteremic through distended bowel loops.  Pulmonary infection could
   play a role as well, but the pneumonia likely occurred during
   intubation as a result of aspiration in the long intubation process.
   - WBC continuing to trend down
   - continue fluconazole (day 8 of 14 day course) (day 1: [**8-2**])
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition:
   TPN without Lipids - [**2160-8-5**] 05:39 PM 42 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-3**] 04:39 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-09 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Urosepsis
   Impaction
   Pna
 resp failure
   24 Hour Events:
   Vent weaned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2160-8-6**] 08:55 AM
   Vancomycin - [**2160-8-8**] 08:40 AM
   Cefipime - [**2160-8-8**] 01:00 PM
   Fluconazole - [**2160-8-8**] 03:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-8**] 11:38 PM
   Dilantin - [**2160-8-8**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-9**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 92 (81 - 97) bpm
   BP: 110/67(85) {80/39(58) - 159/104(117)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,537 mL
                                                                    697 mL
   PO:
             TF:
   IVF:
                                                                    725 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    890 mL
   Urine:
                                                                  1,945 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (392 - 485) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 9.6 L/min
   Physical Examination
   Intubated, sedated
   Hrt   rrr
   Lung  decreaed at bases
   Abd
 distended
   Extrem no edema
   Labs / Radiology
   8.5 g/dL
   505 K/uL
   193 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   33 mg/dL
   112 mEq/L
   143 mEq/L
   25.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2160-8-5**]  09:11 AM
                             [**2160-8-5**]  12:14 PM
                             [**2160-8-6**]  02:58 AM
                             [**2160-8-6**]  03:13 PM
                             [**2160-8-6**]  08:21 PM
                             [**2160-8-7**]  01:22 AM
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
                             [**2160-8-9**]  05:16 AM
   WBC
   16.0
   14.3
   10.8
   11.1
   Hct
   24.9
   26.3
   25.1
   25.4
   Plt
   [**Telephone/Fax (3) 8952**]05
   Cr
   1.3
   1.3
   1.1
   1.0
   0.8
   TCO2
   28
   28
   28
   28
   28
   Glucose
   180
   109
   153
   196
   193
   Other labs: PT / PTT / INR:13.6/29.9/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:31/44, Alk Phos / T Bili:91/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:237 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   CXR volume loss left, hazy right base
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE / pna / effusions
 wean vent as tol, cont abx,
   UTI / bacteremia
 on abx
   Funguria
 cont fluc
   Colonic distension
 cont rectal tube, TPN
   DM
 insulin
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2160-8-8**] 05:27 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr
   Disposition :  icu
   Total time spent:   35

2160-08-10 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-8-8**] 01:00 PM
   Fluconazole - [**2160-8-8**] 03:00 PM
   Vancomycin - [**2160-8-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-9**] 04:00 PM
   Dilantin - [**2160-8-9**] 04:00 PM
   Midazolam (Versed) - [**2160-8-10**] 06:20 AM
   Fentanyl - [**2160-8-10**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-10**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 97 (85 - 101) bpm
   BP: 123/47(70) {94/43(69) - 158/89(119)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,813 mL
                                                                     96 mL
   PO:
             TF:
   IVF:
                                                                    542 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    760 mL
   Urine:
                                                                  2,430 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                   -664 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (338 - 490) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.39/47/96.[**Numeric Identifier 7**]/26/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   536 K/uL
   200 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   32 mg/dL
   112 mEq/L
   143 mEq/L
   24.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
                             [**2160-8-9**]  05:16 AM
                             [**2160-8-9**]  12:00 PM
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
   WBC
   14.3
   10.8
   11.1
   11.6
   Hct
   26.3
   25.1
   25.4
   24.3
   Plt
   396
   422
   505
   536
   Cr
   1.1
   1.0
   0.8
   0.9
   TCO2
   28
   29
   30
   Glucose
   153
   196
   193
   233
   199
   196
   200
   Other labs: PT / PTT / INR:13.3/27.3/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:30/34, Alk Phos / T Bili:95/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE / pna / effusions
 wean vent as tol, cont abx,
   UTI / bacteremia
 on abx
   Funguria
 cont fluc
   Colonic distension
 cont rectal tube, TPN
   DM
 insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2160-08-10 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - FiO2 decreased from 50% to 40%, PS from 14 to 12, ABG 7.38/47/98/
   29
   - ID recs: continue vanc/cefepime/fluconazole
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-8-8**] 01:00 PM
   Fluconazole - [**2160-8-8**] 03:00 PM
   Vancomycin - [**2160-8-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-9**] 04:00 PM
   Dilantin - [**2160-8-9**] 04:00 PM
   Midazolam (Versed) - [**2160-8-10**] 06:20 AM
   Fentanyl - [**2160-8-10**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-10**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 97 (85 - 101) bpm
   BP: 123/47(70) {94/43(69) - 158/89(119)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,813 mL
                                                                     97 mL
   PO:
             TF:
   IVF:
                                                                    542 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    760 mL
   Urine:
                                                                  2,430 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                   -663 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (338 - 490) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.39/47/96.[**Numeric Identifier 7**]/26/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands
   Labs / Radiology
   536 K/uL
   8.2 g/dL
   200 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   32 mg/dL
   112 mEq/L
   143 mEq/L
   24.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2160-8-7**]  04:07 AM
                             [**2160-8-7**]  05:19 PM
                             [**2160-8-8**]  05:10 AM
                             [**2160-8-9**]  05:16 AM
                             [**2160-8-9**]  12:00 PM
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
   WBC
   14.3
   10.8
   11.1
   11.6
   Hct
   26.3
   25.1
   25.4
   24.3
   Plt
   396
   422
   505
   536
   Cr
   1.1
   1.0
   0.8
   0.9
   TCO2
   28
   29
   30
   Glucose
   153
   196
   193
   233
   199
   196
   200
   Other labs:
   PT / PTT / INR:13.3/27.3/1.1,
   ALT / AST:30/34, Alk Phos / T Bili:95/0.1, Amylase / Lipase:/35,
   Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Micro:
   blood cx ([**8-3**], [**8-4**]) NGTD
   C Diff negative x 3
   MRSA negative
Sputum [**8-3**]: GRAM STAIN  >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         RESPIRATORY CULTURE (Final [**2160-8-5**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
   CXR: improving right base opacity
   Assessment and Plan
   Assessment and Plan: 84 year old nursing home resident with dementia,
   mental retardation, initially admitted with urosepsis and with
   development of hypoxemic respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Continues to have secretions which will be a
   barrier to extubation.
   - continue to see WBC trending down.
   - suction secretions, which are less
   - changed to PS 14/8, PEEP weaned down to 8.  Will calculate RSBI again
   today and try SBT.
   - continue broad coverage with cefepime, vanc (day 7 of 8 day course)
   (day 1: Day 1 = [**8-3**]).  Vanc changed to q24h bc vanc level of 29.
   Check vanc level.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA, and patient
s history of
   urosepsis during prior ICU stay.  GI source is also likely as patient
   has distended colon, it is possible that patient becomes transiently
   bacteremic through distended bowel loops.  Pulmonary infection could
   play a role as well, but the pneumonia likely occurred during
   intubation as a result of aspiration in the long intubation process.
   - WBC continuing to trend down
   - continue fluconazole (day 8 of 14 day course) (day 1: [**8-2**])
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct has been trending down during the past several days.
   Baseline hct 37-39. no evidence of bleeding. Could be contributed by
   dilutional effect and anemia of inflammation (anemia of chronic
   disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-11 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-11**] 12:54 AM
 URINE CULTURE - At [**2160-8-11**] 01:30 AM
 FEVER - 101.5
F - [**2160-8-11**] 12:00 AM
   - pt found to be breathing at RR of 35 yesterday, placed back on AC,
   tried again to switch to PS but RR 40, now back on AC
   - talked to HCP -> aware of low probability of successful extubation
   since didn
t tolerate weaning settings on the vent this weekend.
   - ID recs: continue vanc/cefepime for 8 days, /fluconazole for 14 days,
   check Urine cx after abx are done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-10**] 08:00 AM
   Cefipime - [**2160-8-10**] 12:22 PM
   Fluconazole - [**2160-8-10**] 02:12 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-10**] 08:00 AM
   Dilantin - [**2160-8-10**] 04:12 PM
   Fentanyl - [**2160-8-10**] 10:00 PM
   Midazolam (Versed) - [**2160-8-10**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-11**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.2
   HR: 100 (93 - 112) bpm
   BP: 149/57(87) {81/42(58) - 170/91(136)} mmHg
   RR: 20 (20 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    710 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    710 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    500 mL
   Urine:
                                                                  2,340 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,630 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 424 (308 - 424) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.42/43/73.[**Numeric Identifier 252**]/25/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands
   Labs / Radiology
   569 K/uL
   8.5 g/dL
   216 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   108 mEq/L
   143 mEq/L
   25.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2160-8-8**]  05:10 AM
                             [**2160-8-9**]  05:16 AM
                             [**2160-8-9**]  12:00 PM
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
   WBC
   10.8
   11.1
   11.6
   12.3
   Hct
   25.1
   25.4
   24.3
   25.2
   Plt
   422
   505
   536
   569
   Cr
   1.0
   0.8
   0.9
   1.1
   TCO2
   29
   30
   29
   Glucose
   196
   193
   233
   199
   196
   200
   216
   Other labs: PT / PTT / INR:13.7/27.6/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:30/34, Alk Phos / T Bili:95/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Lactate: 1.3
   Micro:
   blood cx ([**8-3**], [**8-4**]) NGTD
   blood cx ([**8-11**]): pending
   urine cx ([**8-11**]): pending
   C Diff negative x 3
   MRSA negative
Sputum [**8-3**]: GRAM STAIN  >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         RESPIRATORY CULTURE (Final [**2160-8-5**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
   CXR: ([**8-11**]): increased haziness of right lung field
   Assessment and Plan
   Assessment and Plan: 84 year old nursing home resident with dementia,
   mental retardation, initially admitted with urosepsis and with
   development of hypoxemic respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Secretions have been barrier to extubation,
   improving.
   - suction secretions, which are less
   - switched back to AC due to tachypnea.  Repeat gas, may try weaning to
   PS.  Ultimate goal of SBT and possible extubation.
   - can d/c vanc/cefepime today, but may want to check with ID
   considering low grade fever overnight (day 8 of 8 day course) (day 1:
   Day 1 = [**8-3**]).  Considered adding fluoroquinoline and flagyl.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA of yeasts, and patient
   history of urosepsis during prior ICU stay.  GI source is also likely
   as patient has distended colon, it is possible that patient becomes
   transiently bacteremic through distended bowel loops.  Pulmonary
   infection could play a role as well, but the pneumonia likely occurred
   during intubation as a result of aspiration in the long intubation
   process.
   - WBC slightly increasing
   - continue fluconazole (day 10 of 14 day course) (day 1: [**8-2**])
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -may want to consider re-imaging today for interval change and setting
   of fever spikes
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct stable at 25 for several days.  Baseline hct 37-39. no
   evidence of bleeding. Could be contributed by dilutional effect and
   anemia of inflammation (anemia of chronic disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Arterial Line - [**2160-8-7**] 12:14 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-11 18:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-11**] 12:54 AM
 URINE CULTURE - At [**2160-8-11**] 01:30 AM
 FEVER - 101.5
F - [**2160-8-11**] 12:00 AM
   -Patient trialed on PSV today with failure due to excessive tachypnea
   and with return to A/C support
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-10**] 08:00 AM
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-11**] 02:32 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2160-8-10**] 10:00 PM
   Midazolam (Versed) - [**2160-8-10**] 10:10 PM
   Pantoprazole (Protonix) - [**2160-8-11**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-11**] 08:27 AM
   Dilantin - [**2160-8-11**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2160-8-11**] 06:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100.1
   HR: 113 (93 - 113) bpm
   BP: 188/73(100) {105/37(53) - 188/75(100)} mmHg
   RR: 35 (20 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    711 mL
                                                                    418 mL
   PO:
             TF:
   IVF:
                                                                    711 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                  1,600 mL
   Urine:
                                                                  2,340 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,629 mL
                                                                 -1,182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 335 (175 - 424) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.39/44/120/25/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   569 K/uL
   216 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   108 mEq/L
   143 mEq/L
   25.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2160-8-9**]  05:16 AM
                             [**2160-8-9**]  12:00 PM
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
   WBC
   11.1
   11.6
   12.3
   Hct
   25.4
   24.3
   25.2
   Plt
   [**Telephone/Fax (3) 8993**]
   Cr
   0.8
   0.9
   1.1
   TCO2
   29
   30
   29
   28
   Glucose
   193
   233
   199
   196
   200
   216
   Other labs: PT / PTT / INR:13.7/27.6/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:30/34, Alk Phos / T Bili:95/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   84 yo male with admission for hypoxemic respiratory failure in the
   setting of abdominal distention and likely significant onset of
   pneumonia.  We have seen persistence of respiratory failure despite the
   presence of a significant course of antibiotics despite ongoing
   fevers.  He maintains significant inability to maintain adequate
   ventilation even in the setting of PSV support.
   1)Respiratory Failure-
   -Will continue A/C support
   -Will continue PSV trials
   -Will need to continue secretion clearance
   -Wll need to maintain stable abdominal exam
   2)Abdominal distention-
   -Improved exam today--much less tense but with some persistent
   distention
   -Will follow exam
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will need to clarify clinical status and
   plans for patient given inability to tolerate extubation and clearly
   with no desire to pursue tracheostomy as it would be inconsistent with
   patient goals.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2160-08-12 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2160-8-11**] 08:03 AM
 FEVER - 101.5
F - [**2160-8-12**] 12:00 AM
   - PS trial, tachypnea, increased SBP to >180.  Dropped back to AC.
   - ID recs ([**8-10**]): d/c vanc/cefepime: finished 8 day course for HAP
   (ending [**8-10**]). Continue fluconazole for 14 day course for fungiuria (to
   end [**8-15**])- after course, recheck UA and urine cx to confirm clearance.
   -> per ID: spike temp due to sedation.  Stop vanc and cefepime.
   -> Dr. [**Last Name (STitle) **] spoke to [**Doctor First Name 792**].  No trach.  She will come in on
   Wednesday, plan to extubate wednesday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-10**] 08:00 AM
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-11**] 02:32 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-11**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-11**] 08:27 AM
   Dilantin - [**2160-8-11**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-12**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (101
   HR: 100 (94 - 113) bpm
   BP: 167/60(85) {105/37(53) - 188/75(100)} mmHg
   RR: 21 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    486 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                    436 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    600 mL
   Urine:
                                                                  2,260 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,774 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 335 (175 - 367) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 42.4 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 10.3 L/min
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse wheezes and ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, massively distended, no BS, no fluid wave or
   shifting dullness
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Neuro: moves both UE, but not LE on commands
   Labs / Radiology
   356 K/uL
   7.2 g/dL
   222 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   33 mg/dL
   109 mEq/L
   144 mEq/L
   25.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
   WBC
   11.6
   12.3
   9.3
   Hct
   24.3
   25.2
   21.0
   25.4
   Plt
   536
   569
   356
   Cr
   0.9
   1.1
   1.0
   TCO2
   29
   30
   29
   28
   Glucose
   199
   196
   200
   216
   222
   Other labs:
   PT / PTT / INR:13.2/26.3/1.1,
   CK / CKMB / Troponin-T:79/2/0.05,
   ALT / AST:79/76, Alk Phos / T Bili:126/0.1, Amylase / Lipase:/35,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:301 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Micro:
   blood cx ([**8-3**], [**8-4**]) NGTD
   blood cx ([**8-11**]): pending
   urine cx ([**8-11**]): pending
   C Diff negative x 3
   MRSA negative
Sputum [**8-3**]: GRAM STAIN  >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         RESPIRATORY CULTURE (Final [**2160-8-5**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
   CXR: ([**8-11**]): increased haziness of right lung field
   Assessment and Plan
   84 year old nursing home resident with dementia, mental retardation,
   initially admitted with urosepsis and with development of hypoxemic
   respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Secretions have been barrier to extubation,
   improving.
   - suction secretions, which are less
   - switched back to AC due to tachypnea.  Repeat gas, may try weaning to
   PS.  Ultimate goal of SBT and possible extubation.
   - can d/c vanc/cefepime today, but may want to check with ID
   considering low grade fever overnight (day 8 of 8 day course) (day 1:
   Day 1 = [**8-3**]).  Considered adding fluoroquinoline and flagyl.
   - per ID d/c cipro,  can d/c flagyl as c.diff neg x 3
   - continue GI decompression with NGT and rectal tube.
   - f/u ID recs
   .
   # sepsis: likely Gu source given positive UA of yeasts, and patient
   history of urosepsis during prior ICU stay.  GI source is also likely
   as patient has distended colon, it is possible that patient becomes
   transiently bacteremic through distended bowel loops.  Pulmonary
   infection could play a role as well, but the pneumonia likely occurred
   during intubation as a result of aspiration in the long intubation
   process.
   - WBC slightly increasing
   - continue fluconazole (day 10 of 14 day course) (day 1: [**8-2**])
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culutre if spikes
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -may want to consider re-imaging today for interval change and setting
   of fever spikes
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -continue broad coverage with cefepime, vanc for 8 days (day 1: Day 1 =
   [**8-3**])
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate
   .
   # Anemia: hct stable at 25 for several days.  Baseline hct 37-39. no
   evidence of bleeding. Could be contributed by dilutional effect and
   anemia of inflammation (anemia of chronic disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   -renally dose meds
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Sister-in-law  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**] (HCP)
   [**Name (NI) 156**] status: DNR.  When successfully extubated, will become DNI.  If
   self extubates, will re-intubate.
   Disposition : ICU

2160-08-12 12:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2160-8-11**] 08:03 AM
 FEVER - 101.5
F - [**2160-8-12**] 12:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-10**] 08:00 AM
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-11**] 02:32 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-12**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-12**] 08:09 AM
   Dilantin - [**2160-8-12**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2160-8-12**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.3
   HR: 105 (94 - 113) bpm
   BP: 180/66(93) {125/52(73) - 188/75(100)} mmHg
   RR: 21 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    486 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                    436 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,040 mL
   Urine:
                                                                  2,260 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,774 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 335 (175 - 367) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 10.3 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   356 K/uL
   222 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   33 mg/dL
   109 mEq/L
   144 mEq/L
   25.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2160-8-9**]  05:35 PM
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
   WBC
   11.6
   12.3
   9.3
   Hct
   24.3
   25.2
   21.0
   25.4
   Plt
   536
   569
   356
   Cr
   0.9
   1.1
   1.0
   TCO2
   29
   30
   29
   28
   Glucose
   199
   196
   200
   216
   222
   Other labs: PT / PTT / INR:13.2/26.3/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:79/76, Alk Phos / T Bili:126/0.1,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:301 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR-
   Assessment and Plan
   84 yo male with respiratory failure--related to pulmonary infection,
   weakness of respiratory muscles and capacity to maintain airway
   clearnance,  restriction of chest wall with abdominal process but now
   with significant limitations in capacity to maintain upper airway
   patency in light of findings during re-intubation.  He has had period
   of treatment for infectious insult to lungs.  He has had extensive
   intervention for clearance of fecal obstruction of colon which has
   resulted in significant decompression.  In this setting we have pursued
   medical treatment to allow an optimal chance for independent
   maintenance of ventilation and oxygenation.  He will be limited by
   upper airway patency and likely mental status and capacity to clear
   secretions which has been of concern.
   1)Respiratory Failure-
   -Continue to suction as needed
   -Will minimize sedation
   -Move to PSV trial today
   -Given clear understanding of patient wishes there are no plans for
   tracheostomy or chronic ventilator support and will move to extubation
   with [**Name (NI) 792**] (HCP) present and continue to support him as needed going
   forward
   2)Bowel Obstruction-
   -Improved
   3)Sepsis-
   -Improved in regards to WBC count and blood pressure but with
   persistent fevers
   -RUQ U/S today
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 37 minutes

2160-08-13 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-13**] 05:19 AM
 FEVER - 101.9
F - [**2160-8-13**] 12:00 AM
   - RUQ US: no acute cholecystitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-10**] 08:00 AM
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-12**] 01:48 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-12**] 08:09 AM
   Dilantin - [**2160-8-13**] 12:07 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-13**] 12:16 AM
   Fentanyl - [**2160-8-13**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.9
   HR: 92 (88 - 117) bpm
   BP: 101/57(66) {85/25(43) - 182/72(96)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    421 mL
                                                                    185 mL
   PO:
             TF:
   IVF:
                                                                    361 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    720 mL
   Urine:
                                                                  2,230 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,809 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 10.1 L/min
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: dry mucous membranes, oropharynx clear
   Lungs: diffuse ronchi bilaterally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, massively distended, no BS, no fluid wave or shifting
   dullness, mild tenderness in RUQ
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Labs / Radiology
   509 K/uL
   7.9 g/dL
   208 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   33 mg/dL
   108 mEq/L
   144 mEq/L
   23.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   Plt
   536
   569
   356
   509
   Cr
   0.9
   1.1
   1.0
   1.0
   TCO2
   30
   29
   28
   Glucose
   199
   196
   200
   [**Telephone/Fax (3) 9027**]
   Other labs:
   PT / PTT / INR:13.5/25.1/1.2,
   CK / CKMB / Troponin-T:79/2/0.05,
   ALT / AST:144/131, Alk Phos / T Bili:118/0.2, Amylase / Lipase:/35,
   Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9 %, Eos:2.6 %,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:293 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Micro:
   blood cx ([**8-11**]): pending
   urine cx ([**8-11**]): pending
   C Diff negative x 3
   RUQ u/s: stone, nut no cholecystitis
   CXR: stable (right lung collapse or retrocardiac opacity)
   Assessment and Plan
   84 year old nursing home resident with dementia, mental retardation,
   initially admitted with urosepsis and with development of hypoxemic
   respiratory failure, HAP, fecal impaction.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to increased
   abdominal distention and aspiration pneumonia / pneumonitis from
   extubation reintubation.  Secretions have been barrier to extubation,
   improving.
   - suction secretions, which are less
   - switched back to AC due to tachypnea after previous PS trial,
   continue current settings
   - per HCP, do not desire trach, will plan to extubate today in her
   presence. Pt will be DNI after extubation
   - will have Morphine and Scopalamine available if needed
   post-extubation
   - finished 8 day course of Vanc/Cefepime
   - f/u ID recs
   .
   # Sepsis: likely GU source given positive UA of yeasts, and patient
   history of urosepsis during prior ICU stay.  GI source is also likely
   as patient has distended colon, it is possible that patient becomes
   transiently bacteremic through distended bowel loops.  Pulmonary
   infection could play a role as well, but the pneumonia likely occurred
   during intubation as a result of aspiration in the long intubation
   process.
   - febrile, elev WBC
   - continue fluconazole (day 11 of 14 day course) (day 1: [**8-2**]), will
   recheck UA and culture upon completion of course
   - f/u blood culture
   - fluid boluses prn to maintain MAP>65, CVP>[**9-1**], ScvO2 >70%
   - fu ID recs recs
   - tylenol for fever
   - culture if spikes
   - RUQ ruled out cholecystitis
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   -NGT and rectal tube in 30 cm for decompression
   -d/c enemas per GI
   - continue lactulose
   -GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   -follow lactate which has been normal
   - d/c AlOH
   .
   # Anemia: hct stable at 25 for several days.  Baseline hct 37-39. no
   evidence of bleeding. Could be contributed by dilutional effect and
   anemia of inflammation (anemia of chronic disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   ICU Care
   Nutrition: TPN
   Glycemic Control:  glargine and sliding scale insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle VAP bundle
   Comments:
   Communication:  HCP [**Name (NI) 792**] [**Name (NI) 8911**]
   [**Name (NI) 9030**]  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**]
   Code status: DNR.  After extubated, will become DNI.
   Disposition : ICU for now, may be called out to floor post-extubation

2160-08-13 12:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-13**] 05:19 AM
 FEVER - 101.9
F - [**2160-8-13**] 12:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-12**] 01:48 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2160-8-13**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-13**] 08:14 AM
   Dilantin - [**2160-8-13**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2160-8-13**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (100.9
   HR: 96 (87 - 117) bpm
   BP: 112/53(67) {85/25(43) - 182/72(96)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    446 mL
                                                                    423 mL
   PO:
             TF:
   IVF:
                                                                    386 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                  1,060 mL
   Urine:
                                                                  2,230 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,784 mL
                                                                   -637 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: ///27/
   Ve: 10.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   509 K/uL
   208 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   33 mg/dL
   108 mEq/L
   144 mEq/L
   23.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   Plt
   536
   569
   356
   509
   Cr
   0.9
   1.1
   1.0
   1.0
   TCO2
   30
   29
   28
   Glucose
   199
   196
   200
   [**Telephone/Fax (3) 9027**]
   Other labs: PT / PTT / INR:13.5/25.1/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:144/131, Alk Phos / T Bili:118/0.2,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:293 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: U/S--cholelithiasis without cholecystitis
   CXR--Left LL collapse but otherwise improved lung fields
   Assessment and Plan
   84 yo male with initial admission with urosepsis now with recurrent
   admission to [**Hospital Ward Name **] ICU with respiratory failure with likey
   contribution from weakness, pulmonary secretions, pnumonia and
   restriction due to abdominal distention.  Now that we have completed
   course of treatment for infection and provided decompression of abdomen
   we have provided optimal intervention to give greatest chance of
   successful extubation.  Despite this there is signfiicant concern for
   patient capacity to maintain patent airway following extubation.  As
   described [**Hospital 9029**] [**Hospital 508**] health care proxy ([**Name (NI) 792**]) he clearly would
   not want trachestomy and has been DNR which leaves current plan to move
   to exbuation and continue to support him with a focus on comfort with
   extubation with [**Doctor First Name 792**] in attendance.
   1)Respiratory Failiure-
   -Will move to extubation today
   -Will continue to support patient but will not move to re-intubation
   2)Sepsis-
   -Resolved at this time
   3)Altered Mental Status-
   -Patient with improved alertness this morning
   -Sedating medications to be D/C
d prior to extubation
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Re-visited with [**Doctor First Name 792**] this morning
will move
   to extubation this morning and continue care with DNR/DNI status.
   Should he have worsening clinical decline requiring intubation would
   move to comfort care rather than re-intubation.
   Code status: DNR/DNI
   Disposition : ICU
   Total time spent: 33

2160-08-14 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - At midnight, patient noted to tachypnic with labored breathing,
   grimacing, tachycardia, and HTN.  HCP [**Name (NI) 161**], made [**Name (NI) 115**] briefly
   overnight.  Hgowever, in AM noticed to be doing well.  Family meeting
   held with HCP and decided to treat without aggressive interventions.
   Will continue medications, lab tests, imaging.
   - satting well overnight, maintained good blood pressures, respiratory
   rate now in the 20s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-8-11**] 12:00 PM
   Fluconazole - [**2160-8-13**] 02:35 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2160-8-13**] 11:50 PM
   Dilantin - [**2160-8-13**] 11:55 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-14**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.1
C (97
   HR: 89 (87 - 114) bpm
   BP: 121/43(63) {102/33(53) - 167/65(84)} mmHg
   RR: 26 (20 - 41) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,332 mL
                                                                    398 mL
   PO:
             TF:
   IVF:
                                                                    359 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    920 mL
   Urine:
                                                                  2,560 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -228 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 91%
   ABG: ////
   Ve: 10.3 L/min
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: dry mucous membranes, oropharynx clear
   Lungs: diffuse ronchi bilaterally; expiratory wheezes
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, massively distended, no BS, no fluid wave or shifting
   dullness, mild tenderness in RUQ
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Labs / Radiology
   509 K/uL
   7.9 g/dL
   208 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   33 mg/dL
   108 mEq/L
   144 mEq/L
   23.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   Plt
   536
   569
   356
   509
   Cr
   0.9
   1.1
   1.0
   1.0
   TCO2
   30
   29
   28
   Glucose
   199
   196
   200
   [**Telephone/Fax (3) 9027**]
   Other labs: PT / PTT / INR:13.5/25.1/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:144/131, Alk Phos / T Bili:118/0.2,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:293 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   No micro data.
   No imaging.
   Assessment and Plan
   84 year old admitted with urosepsis and with development of hypoxemic
   respiratory failure, HAP, fecal impaction.  Following goals of care
   meeting with HCP, will not continue tube feeds, will continue abx, lab
   tests, but no aggressive interventions.
   .
   # Hypoxemic acute respiratory failure:  Likely secondary to aspiration
   pneumonia / pneumonitis from extubation reintubation.  Upper airway
   compromise evident based on wheezing and difficulty in clearing
   secretions.
   - morphine gtt stopped but will restart in distress
   - supplemental O2
   - NPO
   - nebulizers to treat bronchospasm
   -f/u CXR
   .
   # Sepsis: resolved.  likely GU source given positive UA of yeasts, and
   patient
s history of urosepsis during prior ICU stay.  GI source is
   also likely as patient has distended colon, it is possible that patient
   becomes transiently bacteremic through distended bowel loops.
   Pulmonary infection could play a role as well, but the pneumonia likely
   occurred during intubation as a result of aspiration in the long
   intubation process.
   - continue fluconazole (day 13 of 14 day course) (day 1: [**8-2**]), will
   recheck UA and culture upon completion of course
   - f/u blood culture
   - f/u urine culture
   - f/u sputum culture
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   - continue lactulose
   - GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   - d/c AlOH, which can cause constipation
   .
   # Anemia: Stable.  hct stable at 25 for several days.  Baseline hct
   37-39. no evidence of bleeding. Could be contributed by dilutional
   effect and anemia of inflammation (anemia of chronic disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
   - palliative care consult
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Hypernatremia: resolved.
   -continue to monitor
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   -send urine lytes and urinalysis if creatinine worsens
   ICU Care
   Nutrition: TPN, HCP does not want to pursue feeding tube
   Glycemic Control:  glargine and sliding scale insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle VAP bundle
   Comments:
   Communication:  HCP [**Name (NI) 792**] [**Name (NI) 8911**]
   [**Name (NI) 9030**]  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**]
   Code status: DNR/DNI.  [**Telephone/Fax (1) 115**]
   Disposition : ICU for now, may be called out to floor

2160-08-14 12:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2160-8-13**] 02:00 PM
 FEVER - 101.4
F - [**2160-8-13**] 08:00 AM
   Patient extubated yesterday with clear plan to maintain patient as with
   ongoing treatment but not re-intubate or perform CPR.
   He has tolerated supportive care with abtility to maintain saturations
   with supplemental oxygen
   MSO4 has been added for intermittent respiratory distress across the
   past 24hours
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2160-8-13**] 02:35 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2160-8-13**] 11:50 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-14**] 12:00 AM
   Dilantin - [**2160-8-14**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2160-8-14**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 87 (86 - 114) bpm
   BP: 120/48(64) {105/33(54) - 167/65(84)} mmHg
   RR: 25 (20 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,332 mL
                                                                    465 mL
   PO:
             TF:
   IVF:
                                                                    359 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,420 mL
   Urine:
                                                                  2,560 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -228 mL
                                                                   -955 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   509 K/uL
   208 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   33 mg/dL
   108 mEq/L
   144 mEq/L
   23.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-8-9**]  06:00 PM
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   Plt
   536
   569
   356
   509
   Cr
   0.9
   1.1
   1.0
   1.0
   TCO2
   30
   29
   28
   Glucose
   199
   196
   200
   [**Telephone/Fax (3) 9027**]
   Other labs: PT / PTT / INR:13.5/25.1/1.2, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:144/131, Alk Phos / T Bili:118/0.2,
   Amylase / Lipase:/35, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:293 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: None new
   Assessment and Plan
   84 yo male with initial admission for urosepsis and now with recurrent
   respiratory failure in the setting of abdominal distention--who now has
   had decrease in abdominal distention, has had optimal treatment for
   infection and now moved to extubation which he has tolerated with
   supplemental oxygen only.  He has required MSO4 PRN for respiratory
   distress.  He does have some capacity for clearance of secretions.
   This course was discussed extensively with [**Hospital 508**] health care proxy
   and will continue as follows until further discussions patient to be
   maintained, with-->
   1)Respiratory Distress-Given compromise of patient upper airway and
   inability to maintain adequate clearance of secretions he does have
   persistence of intermittent respiratory distress.  Will continue to
   treat with-->
   -MSO4 IV as needed for severe distress
   -Supplemental O2 in place
   -NPO to continue given aspiration risk
   -Given the multiple issues to discuss to consider patient priorities
   and medical interventions possible will involve palliative care for
   consideration of treatment options going forward
   -Nebulizers to continue for relief of bronchospasm
   2)Sepsis-
   Fluconazole to continue and is on day [**11-3**] for urinary fungal
   infection.
 COMFORT CARE (CMO, COMFORT MEASURES)
 DIABETES MELLITUS (DM), TYPE II
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: NPO given aspiration risk
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :Transfer to floor
   Total time spent: 38 minutes

2160-08-15 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - morphine gtt stopped
   - family meeting with [**Doctor First Name 792**]: no tube feeds, continue abx, lab tests, but
   no aggressive interventions
   - all VSS
   - CXR: stable
   - urine cx ([**8-11**]): growing yeast 10,000-100,000
   - fluconazole continued
   - ordered palliative care consult
   - began nebulizers (albuterol/ipratropium)
   - begun on quick mix TPN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2160-8-14**] 01:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-14**] 03:54 PM
   Dilantin - [**2160-8-14**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 108 (85 - 108) bpm
   BP: 159/47(74) {105/38(54) - 159/79(98)} mmHg
   RR: 36 (24 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,357 mL
                                                                    633 mL
   PO:
             TF:
   IVF:
                                                                    318 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,000 mL
   Urine:
                                                                  2,400 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,043 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General: drowsy, arousable, oriented x1
   HEENT: dry mucous membranes, oropharynx clear
   Lungs: diffuse ronchi bilaterally; expiratory wheezes
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, massively distended, no BS, no fluid wave or shifting
   dullness, mild tenderness in RUQ
   GU: foley in place
   Ext: warm, well perfused, 1+ BLE edema, onychomycosis bilat
   Labs / Radiology
   515 K/uL
   8.4 g/dL
   115 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.4 mEq/L
   36 mg/dL
   107 mEq/L
   145 mEq/L
   25.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
                             [**2160-8-15**]  04:30 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   11.7
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   25.9
   Plt
   536
   569
   356
   509
   515
   Cr
   0.9
   1.1
   1.0
   1.0
   0.8
   TCO2
   30
   29
   28
   Glucose
   196
   200
   216
   222
   208
   115
   Other labs:
   PT / PTT / INR:13.0/26.9/1.1,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   LFT: ALT 112 (down from 144), AST 73 (down from 131), LDH 288 (down
   from 293), Alk phos 125 (up from 118). Tbili 0.2 stable.
   Micro:
   Blood cx ([**8-11**] and [**8-13**]): NGTD
   Sputum cx ([**8-3**]): gram stain showed 2+ budding yeast with pseudohyphae,
   1+ GPC in pairs and clusters, and 1+ GNR, cx showed moderate growth
   yeasts.
   C. diff neg x4
   urine cx from [**8-11**]: neg
   Imaging:
   CXR ([**8-15**]): my read: L sided pleural effusion. RML infiltrate.
   Assessment and Plan
   84 year old admitted with urosepsis and with development of hypoxemic
   respiratory failure, HAP, fecal impaction.  Following goals of care
   meeting with HCP, will not continue tube feeds, will continue abx, lab
   tests, but no aggressive interventions.
   .
   # Hypoxemic acute respiratory failure:  extubated now. Likely secondary
   to aspiration pneumonia / pneumonitis from extubation reintubation.
   Upper airway compromise evident based on wheezing and difficulty in
   clearing secretions.  morphine gtt stopped but will restart in
   distress.
   - continue supplemental O2, wean as tolerated
   - NPO, will get speech and swallow consult today
   - continue nebulizers to treat bronchospasm
   - f/u CXR
   .
   #Goals of care: Confirmed with HCP [**Name (NI) 792**] [**Name (NI) 8911**], pt is DNR. If
   medically optimized and pt is extubated, he would be DNI at that time,
   and comfort measures only if not tolerating after extubation.  Should
   he self extubate, will re-intubate.
- appreciate palliative care recs:
Per collateral information from a very suppo
rtive HCP, patient appeared to have a good quality of life at his nursing home,
and enjoyed simple activities there. These goals could potentially be reached wi
th minimally invasive treatments and physical/occupational rehabilitation, which
 appear to all be within desired goals of care. We will contact case management
to discuss potential disposition plans for patient and can contact the patient's
 HCP for further collateral information
- no aggressive therapy, i.e., no PEG or tracheostomy
   .
   # Sepsis: resolved.  likely GU source given positive UA of yeasts, and
   patient
s history of urosepsis during prior ICU stay.  GI source is
   also likely as patient has distended colon, it is possible that patient
   becomes transiently bacteremic through distended bowel loops.
   Pulmonary infection could play a role as well, but the pneumonia likely
   occurred during intubation as a result of aspiration in the long
   intubation process.
   - continue fluconazole (day 13 of 14 day course) (day 1: [**8-2**]), will
   recheck UA and culture upon completion of course
   - f/u blood culture
   - f/u urine culture
   - f/u sputum culture
   .
   # Colonic dilation: improving on imaging, stable on clinical exam. no
   evidence of a mechanical obstruction per radiology, likely related to a
   stool ball in his sigmoid colon vs. ileus. Per surgery any surgical
   intervention will likely involve a total colectomy. Per GI
   sigmoidoscopy will not be able to relieve an obstruction related to
   stool.
   -per HCP, no aggressive intervention: pursue conservative management
   - continue lactulose
   - GI and gen [**Doctor First Name 91**] have signed off
   -electrolyte repletion
   - d/c AlOH, which can cause constipation
   .
   # Anemia: Stable.  hct stable at 25 for several days.  Baseline hct
   37-39. no evidence of bleeding. Could be contributed by dilutional
   effect and anemia of inflammation (anemia of chronic disease)
   - guaiac stool
   - transfuse if hct <21
   .
   #DM: continue glargine and sliding scale insulin.
   .
   # Neuro status: On morning rounds,not alert enough to further assess
   neuro status, but did grimace to pain in all 4 extremities.
   - re-assess neuro status when pt is more alert
   .
   #Hypothyroid - continue synthroid (now IV dose)
   .
   #h/o seizure disorder - continue dilantin, phenobarbital (IV).
   - check dilantin level
   .
   #osteoporosis - continue calcium and vitamin d
   .
   #Anterior extraperitoneal bladder perforation: not a current active
   issue as per urology was likely a small perforation and self
   contained.  Per radiology no perforation was seen.
   -maintain foley
   -call urology if foley requires flushing
   .
   #Acute renal failure
 resolved.  likely pre-renal in the setting of
   sepsis and hypotension
   - continue sepsis treatment
   - maintain BP with IVF
   - send urine lytes and urinalysis if creatinine worsens
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2160-8-14**] 06:17 PM 72.[**Telephone/Fax (5) 525**] mL/hour
   Glycemic Control:  glargine and sliding scale insulin
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: bundle VAP bundle
   Comments:
   Communication:  HCP [**Name (NI) 792**] [**Name (NI) 8911**]
   [**Name (NI) 9030**]  [**Name (NI) 8718**] [**Name (NI) 2728**] [**Telephone/Fax (1) 8719**]
   Code status: DNR/DNI.  CMO
   Disposition : ICU for now, may be called out to floor

2160-08-15 12:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient able to wean to nasal cannula
   -Extensive discussions with [**Doctor First Name 792**], and, current plan of care is to
   continue with medical treatment, no feeding tubes or tracheostomy tubes
   are desire and should respiratory failure be impending would move to
   comfort rather than intervention but would continue with full treatment
   short of those measures.
   -Palliative care in to see patient and move to return to NH as deisred
   path identified.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2160-8-14**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-8-15**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-15**] 08:12 AM
   Dilantin - [**2160-8-15**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2160-8-15**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 111 (85 - 111) bpm
   BP: 108/40(102) {108/40(57) - 168/79(102)} mmHg
   RR: 38 (24 - 38) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,357 mL
                                                                  1,015 mL
   PO:
             TF:
   IVF:
                                                                    318 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,350 mL
   Urine:
                                                                  2,400 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,043 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   515 K/uL
   115 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.4 mEq/L
   36 mg/dL
   107 mEq/L
   145 mEq/L
   25.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2160-8-10**]  12:00 AM
                             [**2160-8-10**]  03:49 AM
                             [**2160-8-10**]  04:11 AM
                             [**2160-8-10**]  05:44 PM
                             [**2160-8-11**]  04:04 AM
                             [**2160-8-11**]  06:24 AM
                             [**2160-8-12**]  03:48 AM
                             [**2160-8-12**]  06:08 AM
                             [**2160-8-13**]  04:25 AM
                             [**2160-8-15**]  04:30 AM
   WBC
   11.6
   12.3
   9.3
   10.8
   11.7
   Hct
   24.3
   25.2
   21.0
   25.4
   23.4
   25.9
   Plt
   536
   569
   356
   509
   515
   Cr
   0.9
   1.1
   1.0
   1.0
   0.8
   TCO2
   30
   29
   28
   Glucose
   196
   200
   216
   222
   208
   115
   Other labs: PT / PTT / INR:13.0/26.9/1.1, CK / CKMB /
   Troponin-T:79/2/0.05, ALT / AST:112/73, Alk Phos / T Bili:125/0.2,
   Amylase / Lipase:/29, Differential-Neuts:86.0 %, Lymph:8.2 %, Mono:2.9
   %, Eos:2.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:288 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-Mild rotation to left, suggestion of left lower lobe
   collapse.
   Assessment and Plan
   84 yo male with initial admission with urosepsis who now has had quite
   good improvement in respiratory status following extubation with
   patient having bowel decompression completed and sepsis treatment
   completed and has been able to maintain adequate oxygenation with nasal
   cannula oxygen only.
   1)Respiratory Failure-
   -OOB to chair
   -Ambulation if possible
   -Continue to suction as needed
   -Will return to face mask as needed across the day today
   2)Bowel Obstruction-
   -Improved with decompression
   -Will return to po intake for pleasure
   -TPN to continue while in hospital
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2160-8-14**] 06:17 PM 72.[**Telephone/Fax (5) 525**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-3**] 12:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI--No Feeding Tubes desired
   Disposition :Transfer to floor with clear goals of care, continued
   improvement and plan for transfer to nursing home as possible.
   Total time spent: 33 minutes